US04326022
The synthesis of mono-2-ethylhexyldiphenyl phosphate: To 460 g of phosphorus oxychloride put into a 2 liter four-necked flask with cooling by iced water, while stirring, were added dropwise spending the period of an hour and ten minutes 402 g (3.09 M) of 2-ethylhexanol at the temperature of 10° C. And the mixture, with continued stirring, was heated slowly up to 50° C. spending 5 hours and a half, and was then kept at the same temperature for two hours, during which the inside of the flask was slowly decompressed, and finally decompressed down to 200 mmHg to remove the hydrochloric acid gas produced thereinside. When the hydrochloric acid gas was no longer produced, 750 g of mono-2-ethylhexylphosphoryldichloride were obtained (yield: 99.7%).

reactant | phosphorus oxychloride | 460 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-ethylhexanol | 3.09 M, 402 g | C(C)C(CO)CCCC | C8H18O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | mono-2-ethylhexylphosphoryldichloride | 750 g, yield: 99.7% | C(C)C(CP(=O)(Cl)Cl)CCCC | C8H17Cl2OP
